US07112589B2
A solution of 3.47 g (17.57 mmol) of 2,4-dichloro-5-choromethyl-pyrimidine and 2.9 ml (21.08 mmol) triethylamine in 29 ml of THF is cooled to −5° C. and 2.2 ml (17.57 mmol) 2,2-dimethyl-propylamin is added over a period of 15 minutes. The reaction mixture is stirred at −5° C. for additional 2 h, then diluted with ethyl acetate and extracted once with brine. The organic layer is separated and dried over Na2SO4. Purification of the crude product by flash chromatography (hexanes/ethyl acetate) yields (2-chloro-5-chloromethyl-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine as white crystalls.

reactant | 2,4-dichloro-5-choromethyl-pyrimidine | 17.57 mmol, 3.47 g | ClC1=NC=C(C(=N1)Cl)CCl | C5H3Cl3N2
reactant | triethylamine | 21.08 mmol, 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-propylamin | 17.57 mmol, 2.2 ml | CC(CN)(C)C | C5H13N
solvent | THF | 29 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-chloro-5-chloromethyl-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine | ClC1=NC=C(C(=N1)NCC(C)(C)C)CCl | C10H15Cl2N3
